US09023760B2
Step 1: Preparation of 1-methoxy-4-methylamino-piperidine-4-carbonitrile (compound P5.1)
To a solution of 1-methoxy-piperidin-4-one [prepared according to Journal of Organic Chemistry (1961), 26, 1867-74] (100 g, 0.77 mol), aqueous methylamine (40 wt. % in H2O, 86 ml) and methylamine hydrochloride (57.5 g, 0.85 mol) in water (700 ml) at 0° C. was added a solution of potassium cyanide (55.5 g, 0.85 mol) in water (150 ml) dropwise over one hour. The reaction mixture was stirred at room temperature for two days. Over the next five days, the mixture was further treated with methylamine hydrochloride (5×2.6 g, total 13.0 g), aqueous methylamine (5×4.3 ml, total 21.5 ml) and potassium cyanide (5×2.5 g, total 12.5 g), and stirring continued at room temperature until the reaction was judged complete by thin layer chromatography. The aqueous reaction mixture was extracted with dichloromethane (1×500 ml, and 4×200 ml), the combined organic phases dried over sodium sulfate and evaporated. Yield: 113.0 g of 1-methoxy-4-methylamino-piperidine-4-carbonitrile (compound P5.1) as a red liquid. This material was used without further purification in the next step.

reactant | 1-methoxy-piperidin-4-one | 0.77 mol, 100 g | CON1CCC(CC1)=O | C6H11NO2
reactant | methylamine | 86 ml | CN | CH5N
reactant | methylamine hydrochloride | 0.85 mol, 57.5 g | Cl.CN
reactant | potassium cyanide | 0.85 mol, 55.5 g | [C-]#N.[K+]
reactant | methylamine hydrochloride | 2.6 g | Cl.CN
reactant | methylamine | 4.3 ml | CN | CH5N
reactant | potassium cyanide | 2.5 g | [C-]#N.[K+]
solvent | water | 700 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 1-methoxy-4-methylamino-piperidine-4-carbonitrile | CON1CCC(CC1)(C#N)NC | C8H15N3O
